US08242130B2
A solution of 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one (0.50 g, 1.5 mmol) and sodium acetate (1.24 g, 15.0 mmol) in ACOH (20 mL) was heated to reflux for 15 h. AcOH was removed and the residue was poured into water and extracted with EtOAc (100 mL). The organic phase was further washed with brine and dried over sodium sulfate. The residue was mixed with potassium carbonate (0.52 g) and MeOH (10 mL) and stirred for 2 h. AcOH (1.0 mL) was added and MeOH was removed. The residue was poured into water and the solid was washed additionally with water and hexane to give 3-(hydroxymethyl)-2-(4-hydroxyphenyl)-4H-chromen-4-one (0.265 g, 62.6%). MS (ES) m/z: 269.94 (M+1), 268.94 (M); Mp. 234-235° C.

reactant | 3-bromomethyl-2-(4-hydroxyphenyl)-4H-chromen-4-one | 1.5 mmol, 0.50 g | BrCC1=C(OC2=CC=CC=C2C1=O)C1=CC=C(C=C1)O | C16H11BrO3
reactant | sodium acetate | 15.0 mmol, 1.24 g | C(C)(=O)[O-].[Na+]
product | 3-(hydroxymethyl)-2-(4-hydroxyphenyl)-4H-chromen-4-one | 0.265 g, 62.6% | OCC1=C(OC2=CC=CC=C2C1=O)C1=CC=C(C=C1)O | C16H12O4
